US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, 1-(4-methanesulfonyl-phenyl)-ethylamine and DIEA to give 2-[1-(4-methanesulfonyl-phenyl)-ethylamino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 438 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | 1-(4-methanesulfonyl-phenyl)-ethylamine | CS(=O)(=O)C1=CC=C(C=C1)C(C)N | C9H13NO2S
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-[1-(4-methanesulfonyl-phenyl)-ethylamino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CS(=O)(=O)C1=CC=C(C=C1)C(C)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C22H19N3O3S2
